US07718652B2
In an analogous manner to example 25, step 4, 3-(2-fluorophenyl)-3,4-dihydro-1H-2,1,3-benzothiadiazine 2,2-dioxide (0.24 g, 0.86 mmol) was treated with 2-bromobutanol (0.073 mL g, 1.0 mmol) to give 1-(2-bromoethyl)-3-(2-fluorophenyl)-3,4-dihydro-1H-2,1,3-benzothiadiazine 2,2-dioxide (0.16 g, 48%).

reactant | 3-(2-fluorophenyl)-3,4-dihydro-1H-2,1,3-benzothiadiazine 2,2-dioxide | 0.86 mmol, 0.24 g | FC1=C(C=CC=C1)N1S(NC2=C(C1)C=CC=C2)(=O)=O | C13H11FN2O2S
reactant | 2-bromobutanol | 1.0 mmol, 0.073 mL | BrC(CO)CC | C4H9BrO
product | 1-(2-bromoethyl)-3-(2-fluorophenyl)-3,4-dihydro-1H-2,1,3-benzothiadiazine 2,2-dioxide | 0.16 g, 48% | BrCCN1S(N(CC2=C1C=CC=C2)C2=C(C=CC=C2)F)(=O)=O | C15H14BrFN2O2S
